US08487108B2
methyl 2-(benzyloxycarbonylamino)acrylate (2.05 g, 0.0095 mol, 1 eq.), 1-bromobicyclo[2.2.2]octane (1.8 g, 0.0095 mol, 1 eq.) and AIBN (0.312 g, 0.0019 mol, 0.2 eq.) were dissolved in benzene (30 mL) and heated to reflux. Bu3SnH (5.53 g, 0.019 mol, 2 eq.) was then added. The resulting mixture was stirred at reflux for 14 hrs. The solvent was removed and the residue was purified via preparative TLC (EtOAc/Petroleum ether=1:9) to give methyl 2-(benzyloxycarbonylamino)-3-(bicyclo[2.2.2]octan-1-yl)propanoate (480 mg, 15%) as a foam. 1H NMR (CDCl3, 400 MHz) δ 7.35 (m, 5H), 5.13 (m, 2H), 4.42 (m, 1H), 3.73 (s, 3H), 1.8-1.1 (m, 15H), 1.28 (m, 1H).

reactant | methyl 2-(benzyloxycarbonylamino)acrylate | 0.0095 mol, 2.05 g, 1 eq. | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)=C | C12H13NO4
reactant | 1-bromobicyclo[2.2.2]octane | 0.0095 mol, 1.8 g, 1 eq. | BrC12CCC(CC1)CC2 | C8H13Br
reactant | AIBN | 0.0019 mol, 0.312 g, 0.2 eq. | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | Bu3SnH | 0.019 mol, 5.53 g, 2 eq. | CCCC[SnH](CCCC)CCCC
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | methyl 2-(benzyloxycarbonylamino)-3-(bicyclo[2.2.2]octan-1-yl)propanoate | 480 mg, 15% | C(C1=CC=CC=C1)OC(=O)NC(C(=O)OC)CC12CCC(CC1)CC2 | C20H27NO4
